US04279918
2-(3,4-diacetoxybenzyl)-1-methylpyrrolidine
Allow 3.25 g of 2-(3,4-dihydroxybenzyl)-1-methylpyrrolidine to stand for 24 hours in 30 ml of acetic anhydride/pyridine 1:1. Concentrate the resulting reaction mixture under a vacuum and distil off the residue to obtain 3.5 g (76% of theory) of the title compound in the form of a yellowish oil (b.p. 135° to 140° at 0.005 mm of Hg) which, on standing, solidifies to a crystalline mass of m.p. 44° to 45°.

reactant | 2-(3,4-dihydroxybenzyl)-1-methylpyrrolidine | 3.25 g | OC=1C=C(CC2N(CCC2)C)C=CC1O | C12H17NO2
solvent | acetic anhydride pyridine | 30 ml | C(C)(=O)OC(C)=O.N1=CC=CC=C1
product | 2-(3,4-diacetoxybenzyl)-1-methylpyrrolidine | C(C)(=O)OC=1C=C(CC2N(CCC2)C)C=CC1OC(C)=O | C16H21NO4
